US08937091B2
2-piperidinoethyl-5-chloro-2-naphthylketone 8330
Vinyl-5-chloro-2-naphthylketone (21.4 mg) and piperidine (8.4 mg) were reacted in dichloromethane (0.3 mL).

reactant | Vinyl-5-chloro-2-naphthylketone | 21.4 mg | C(=C)C1=C(C=CC2=C(C=CC=C12)Cl)C(=O)C1=C(C2=CC=CC(=C2C=C1)Cl)C=C | C25H16Cl2O
reactant | piperidine | 8.4 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
product | 2-piperidinoethyl-5-chloro-2-naphthylketone | N1(CCCCC1)CCC1=C(C=CC2=C(C=CC=C12)Cl)C(=O)C1=C(C2=CC=CC(=C2C=C1)Cl)CCN1CCCCC1 | C35H38Cl2N2O
